Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
scheduled admission for ___  

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ recently diagnosed with mantle cell lymphoma 
with CNS involvement s/p C1D26 CHOP, C1D20 HD MTX who is 
presenting for HiDAC.  The patient was initially diagnosed with 
mantle cell lymphoma after being found to have an elevated white 
count in ___. Initial bone marrow biopsy found to have 
medium sized lymphocytes, no smudge cells, some cells (~10%) 
with more open chromatin and nucleoli. The cells were found to 
be CD ___ + with CD1 translocation.  His course was later 
complicated by retinal vein occlusion and subretinal deposits, 
concerning for CNS involvement, which is why he is s/p HD MTX. 

Of note, during most recent admission for HD MTX, the patient 
was noted to have ___, with creat peaking at 2.2.  The patient's 
baseline 1.1-1.2. 

Currently, the patient reports he feels well.  Does report some 
fatigue, but other than that, has no complaints.  Denies any 
mouth sores, no abdominal pain, no headaches or trouble seeing.  
Denies shortness of breath or chest pain/palpitations.  Denies 
any changes in his bowel movements.  No weakness.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- Mantel Cell Lymphoma, recently diagnosed 2 weeks ago, with new 
CNS involvement, s/p R-CHOP (Cycle 1, Day 1 on ___, Day 2 on 
___

PAST MEDICAL HISTORY:  
- Hypertension
- Prostate hypertrophy
- Chronic lymphocytic leukemia  
- Arthritis  
- Erectile dysfunction  
- Diverticulosis  
- Disc degeneration, lumbar  
- Sensorineural hearing loss with longstanding tinnitus
- s/p Appendectomy
- s/p Prostate biopsy (incisional)
- s/p Repair of deviated nasal septum

 
Social History:
___
Family History:
CABG, hyperlipidemia, mental retardation.

 
Physical Exam:
Admission PE:
VS: 98.6 142/86 72 20 98RA
General: younger than stated age, well appearing, alert and 
appropriate, NAD
HEENT: EOMI, moist mucous membranes  
CARDIAC: RRR, S1/S2, no murmurs/rubs/gallops appreciated  
LUNG: CTAB, no wheezes/rhonchi/crackles noted  
ABDOMEN: soft, nontender, nondistended, +BS  
EXT: warm, well perfused, no ___ edema, 2+ DP pulses  
Neuro: CN ___ grossly intact, normal muscle strength and 
sensation throughout, finger to nose and heel to shin normal

Discharge PE:

 
Pertinent Results:
Admission labs:

___ 09:00AM BLOOD WBC-3.3* RBC-3.28* Hgb-9.7* Hct-28.5* 
MCV-87 MCH-29.6 MCHC-34.0 RDW-15.7* Plt ___
___ 09:00AM BLOOD Neuts-49.3* ___ Monos-10.9 
Eos-1.6 Baso-0.8
___ 09:00AM BLOOD UreaN-29* Creat-1.6* Na-142 K-4.2 Cl-108 
HCO3-26 AnGap-12
___ 09:00AM BLOOD Glucose-106*
___ 09:00AM BLOOD ALT-22 AST-25 LD(LDH)-217 AlkPhos-55 
TotBili-0.3
___ 09:00AM BLOOD Albumin-4.2 Calcium-8.9 Phos-4.5 Mg-2.5 
UricAcd-8.2*

Discharge labs:

 
Brief Hospital Course:
Mr. ___ is a ___ recently diagnosed with mantle cell lymphoma 
with CNS involvement s/p C1D26 CHOP, C1D20 HD MTX, course c/b 
___ with creat now trending down, who is presenting for HiDAC.   


# Mantle cell lymphoma:  The patient is s/p R-CHOP and HD MTX 
which was complicated by ___.  It was decided that his regimen 
will also include alternative dosing of HiDAC as well, as per 
Dr. ___. Because of his recent ___, the patient got 
dose-reduced 1 gram dosing of his HiDAC, with creat being 
closely followed.  The patient was instructed to return to 
clinic the day after discharge for initiation of Neupogen, and 
agreed to return to clinic daily for Neupogen injections for as 
long as medically necessary.  The patient was also instructed to 
take allopurinol ___ mg daily. 

# Possible intra-ocular involvement: The patient has possible 
intra-ocular involvement of his lymphoma as evidenced by 
subretinal deposits on dilated exam.  As per Dr. ___ 
patient should get a vitreous biopsy in order to confirm the 
presence of disease in the eye prior to starting intraocular 
injections of methotrexate.  

# ___: The patient has ___ in the setting of HD-MTX. Because of 
this ___, he received dose reduced HiDAC.  His creat was trended 
and he was continued on IVF with his chemo orders.  Medications 
were renally dosed and nephrotoxic medications were avoided. 

# Hypertension: The patient's pressures were monitored while in 
house.  Addition of an anti-hypertensive agent can be considered 
as an outpatient. 

Transitional Issues:
- Whether the patient's insurance will cover his Neupogen 
injections will have to be addressed as an outpatient.  He will 
come into clinic daily for Neupogen injections daily in the 
meantime.
 
Medications on Admission:
none.
 
Discharge Medications:
1. allopurinol ___ mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
mantle cell lymphoma

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you while you were hospitalized 
at ___.  You were admitted to the hospital for chemotherapy.  
You tolerated the chemotherapy well.  You will need to go to the 
___ on ___ for a Neupogen shot, and then will 
see Dr. ___ in ___ on ___.  You will need to 
return daily for neupogen shots in clinic.

We made the following changes to your medications:
START allopurinol ___ mg by mouth daily
START Neupogen injections daily
 
Followup Instructions:
___